US08217069B2
2,6-Dibromonicotinic Acid
To a solution of 2,6-dibromo-3-formylpyridine (0.3 g) in tert-butanol (12 mL)-water (1 mL) were added sodium dihydrogen phosphate (0.14 g), 2-methyl-2-butene (0.32 g) and a solution of sodium chlorite (0.36 g) in water (2 mL) successively at room temperature, and the mixture was stirred for 2 hours. The reaction mixture was poured into water. The mixture was acidified by adding 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (0.28 g).

reactant | 2,6-dibromo-3-formylpyridine | 0.3 g | BrC1=NC(=CC=C1C=O)Br | C6H3Br2NO
reactant | sodium dihydrogen phosphate | 0.14 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 0.32 g | CC(C)=CC | C5H10
reactant | sodium chlorite | 0.36 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tert-butanol | 12 mL | C(C)(C)(C)O | C4H10O
solvent | water | 2 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 2,6-Dibromonicotinic Acid | 0.28 g | BrC1=C(C(=O)O)C=CC(=N1)Br | C6H3Br2NO2
